US04369328
2,6,6-Trimethyl-cyclohexa-1,3-dien-1-yl methyl ketone
2.0 g (0.011 M) of 2,6,6-trimethyl-1,2-epoxy-cyclohexyl methyl ketone have been treated with 0.5 g of acidic diatomaceous earth in 10 ml of dioxane at 100° to give, after the usual treatments as described in Example 6, 1.3 g (yield 72%) of the desired product (purity 80%).

reactant | 2,6,6-trimethyl-1,2-epoxy-cyclohexyl methyl ketone | 0.011 M, 2.0 g | CC(=O)C12C(CCCC1(C)C)(O2)C | C11H18O2
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2,6,6-Trimethyl-cyclohexa-1,3-dien-1-yl methyl ketone | 1.3 g, yield 72% | CC(=O)C1=C(C=CCC1(C)C)C | C11H16O
